US05264453
A solution of (2S,4R)-1-[(4-acetylaminophenyl)methyl]-2-[(Z)-5-carboxy-1-pentenyl]-4-(4-chlorophenylsulfonylamino)pyrrolidine (200 mg) in 6N-hydrochloric acid (5 ml) was refluxed for 4 hours. The mixture was cooled in an ice bath and adjusted to pH 7 with 1N-sodium hydroxide. The precipitated solid was collected by filtration to give (2S,4R)-1-[(4-aminophenyl)methyl]-2-[(Z)-5-carboxy-1-pentenyl]-4-(4-chlorophenylsulfonylamino)pyrrolidine (95 mg).

reactant | (2S,4R)-1-[(4-acetylaminophenyl)methyl]-2-[(Z)-5-carboxy-1-pentenyl]-4-(4-chlorophenylsulfonylamino)pyrrolidine | 200 mg | C(C)(=O)NC1=CC=C(C=C1)CN1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/CCCC(=O)O | C25H30ClN3O5S
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | (2S,4R)-1-[(4-aminophenyl)methyl]-2-[(Z)-5-carboxy-1-pentenyl]-4-(4-chlorophenylsulfonylamino)pyrrolidine | 95 mg | NC1=CC=C(C=C1)CN1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/CCCC(=O)O | C23H28ClN3O4S
